US04785103
A mixture of 116 mg iof 17α-acetoxy-6-chloro-2-oxapregna-4,6-diene-3,20-dione, 0.5 ml of an about 28% methanol solution of sodium methylate, 0.1 ml of tetrahydrofuran and 5 ml of methanol was heated at 70° C. for 10 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a 30% aqueous solution of hydrogen chloride and then with a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by TLC [developing solvent: chloroform/acetone (19/1)] to give 70 mg of 6-chloro-17α-hydroxy-2-oxapregna-4,6-diene-3,20-dione.

reactant | 17α-acetoxy-6-chloro-2-oxapregna-4,6-diene-3,20-dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(OC[C@]4(C)[C@H]3CC[C@]12C)=O)Cl | C22H27ClO5
reactant | methanol | CO | CH4O
reactant | sodium methylate | C[O-].[Na+]
reactant | tetrahydrofuran | 0.1 ml | O1CCCC1 | C4H8O
reactant | methanol | 5 ml | CO | CH4O
solvent | Water | O | H2O
product | 6-chloro-17α-hydroxy-2-oxapregna-4,6-diene-3,20-dione | 70 mg | ClC1=C[C@H]2[C@@H]3CC[C@](C(C)=O)([C@]3(CC[C@@H]2[C@]2(COC(C=C12)=O)C)C)O | C20H25ClO4
